US05189054
Scheme I, step c: 3-[(Phenacyl)amino]-2-carbethoxy-4,6-dichloroindole
Dissolve 3-amino-2-carbethoxy-4,6-dichloroindole (7.8 g, 27.8 mmol) in methylene chloride (500 mL) and add triethylamine (4.2 mL, 30 mmol) followed by benzoyl chloride (3.5 mL, 30 mmol). Stir at room temperature overnight. Dilute with ethyl acetate (300 mL), wash with water and separate the organic phase. Dry (MgSO4) and evaporate the solvent in vacuo to give a solid. Recrystallize (ethyl acetate) to give the title compound as off-white needles (7.75 g, 74%).

reactant | 3-amino-2-carbethoxy-4,6-dichloroindole | 27.8 mmol, 7.8 g | NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C11H10Cl2N2O2
reactant | triethylamine | 30 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 30 mmol, 3.5 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(Phenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 7.75 g, 74% | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C19H16Cl2N2O3
